US06528525B1
(h) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-phenoxypropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-phenoxypropionate (3.40 g), which is the product of Reference example 4(g), and palladium on carbon (5%, 350 mg) and the reaction mixture was treated to afford the title compound (3.10 g) as a syrup.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-phenoxypropionate | 3.40 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C19H21N3O4
catalyst | palladium on carbon | 350 mg | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-phenoxypropionate | 3.10 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)OC1=CC=CC=C1 | C19H23NO4
